US08222637B2
24.0 g of 9-[1-(2-methoxyvinyl)phenyl]phenanthrene and 100 mL of dichloromethane were placed in a flask. During stirring at room temperature, 6 drops of methanesulfonic acid were added to the flask by means of a Pasteur pipette. Stirring was conducted at room temperature for further 8 hours. After the completion of the reaction, 100 mL of a 10% aqueous solution of potassium carbonate was added. An aqueous phase was removed and an organic phase was washed with water and saturated brine, and then dried with magnesium sulfate. After the magnesium sulfate was filtered out, the organic phase was concentrated. The residue was purified by means of silica gel column chromatography, whereby 5.21 g (yield: 25%) of intended benzo[g]chrysene was obtained.

reactant | 9-[1-(2-methoxyvinyl)phenyl]phenanthrene | 24.0 g | COC=CC1(CC=CC=C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1 | C23H20O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | methanesulfonic acid | 6 drops | CS(=O)(=O)O | CH4O3S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | benzo[g]chrysene | 5.21 g, yield: 25% | C1=CC=CC2=C1C1=C3C=CC=CC3=CC=C1C1=CC=CC=C21 | C22H14
